US04206310
To a suspended ethyl ether (2 ml) solution of 2-chloro-1-methylpyridinium iodide (306 mg, 1.2 mmol) was added a mixture of benzyl alcohol (108 mg, 1.0 mmol), phenylacetic acid (136 mg, 1.0 mmol) and tri-n-butylamine (444 mg, 2.4 mmol) in ethyl ether (2 ml), and the resulting mixture was refluxed for 3 hours. After evaporation of the solvent, the residue was separated by silica gel column chromatography, and benzyl phenylacetate was isolated in 97% yield.

reactant | 2-chloro-1-methylpyridinium iodide | 1.2 mmol, 306 mg | [I-].ClC1=[N+](C=CC=C1)C
reactant | benzyl alcohol | 1.0 mmol, 108 mg | C(C1=CC=CC=C1)O | C7H8O
reactant | phenylacetic acid | 1.0 mmol, 136 mg | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | tri-n-butylamine | 2.4 mmol, 444 mg | C(CCC)N(CCCC)CCCC | C12H27N
solvent | ethyl ether | 2 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 2 ml | C(C)OCC | C4H10O
product | benzyl phenylacetate | 97% yield | C1(=CC=CC=C1)CC(=O)OCC1=CC=CC=C1 | C15H14O2
